US04613609
1-Heptyl-3-[4-(4-methoxyphenyl)butyl]imidazolium bromide
A mixture of 2.5 g (0.015 mole) of 1-heptyl-1H-imidazole and 3.66 g (0.015 mole) of 1-(4-bromobutyl)-4-methoxybenzene is heated at 140° C. for about 2 hours. Follow the progress of the reaction by thin-layer chromatography on silica gel (methanol: 1M sodium chloride, 95:5). At the completion of the reaction, the cooled reaction product is triturated thoroughly with ether and on drying, provides the title compound.

reactant | 1-heptyl-1H-imidazole | 0.015 mole, 2.5 g | C(CCCCCC)N1C=NC=C1 | C10H18N2
reactant | 1-(4-bromobutyl)-4-methoxybenzene | 0.015 mole, 3.66 g | BrCCCCC1=CC=C(C=C1)OC | C11H15BrO
product | 1-Heptyl-3-[4-(4-methoxyphenyl)butyl]imidazolium bromide | [Br-].C(CCCCCC)[N+]1=CN(C=C1)CCCCC1=CC=C(C=C1)OC | InChI=1S/C21H33N2O.BrH/c1-3-4-5-6-8-15-22-17-18-23(19-22)16-9-7-10-20-11-13-21(24-2)14-12-20;/h11-14,17-19H,3-10,15-16H2,1-2H3;1H/q+1;/p-1
